US07626056B2
A solution of LiTMP was formed by cooling a solution of 2,2,6,6-tetramethylpiperidine (862 mg, 6.1 mmol) in THF (5 mL) to −50° C. then adding a solution of n-butyllithium (2.4 mL of 2.5 M in hexanes, 6.1 mmol) dropwise and stirring the mixture for 10 minutes at −50° C. This solution was then cooled to −78 ° C. and a solution of 2-methoxy-6-(trifluoromethyl)nicotinic acid (300 mg, 1.35 mmol) in THF (5 mL) was added dropwise. This mixture was stirred at −78° C. for 2 hours then added via cannula to a pre-cooled solution of hexachloroethane (1.44 g, 6.1 mmol) in THF (5 mL) at −50° C. This mixture was allowed to warm to room temperature over 1 hour then poured into water (20 mL), ethyl acetate (100 mL) added, then washed with hydrochloric acid (2 N, aq, 100 mL). The organic phase was dried over magnesium sulphate, filtered and evaporated to give 4-chloro-2-methoxy-6-(trifluoromethyl)nicotinic acid (312 mg) as an orange solid: 1H NMR (360 MHz, CDCl3): δ 7.36 (1H, s), 4.08 (3H, s).

reactant | 2,2,6,6-tetramethylpiperidine | 6.1 mmol, 862 mg | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | n-butyllithium | 6.1 mmol, 2.5 M, 2.4 mL | C(CCC)[Li]
reactant | 2-methoxy-6-(trifluoromethyl)nicotinic acid | 1.35 mmol, 300 mg | COC1=C(C(=O)O)C=CC(=N1)C(F)(F)F | C8H6F3NO3
reactant | hexachloroethane | 6.1 mmol, 1.44 g | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 20 mL | O | H2O
product | 4-chloro-2-methoxy-6-(trifluoromethyl)nicotinic acid | 312 mg | ClC1=CC(=NC(=C1C(=O)O)OC)C(F)(F)F | C8H5ClF3NO3
